US08309566B2
A solution of [3-methyl-4-((1S,4S)-2-methyl-2,5-diazabicyclo[2.2.1]heptan-5-yl)phenyl][N,N-bis(tert-butoxycarbonyl)]guanidine (0.100 g) in CH2Cl2 (20 mL) with TFA (5 mL) was stirred at ambient temperature for 4 h. The reaction progress was monitored by TLC (silica gel). The resulting mixture was concentrated and the lyophilized to afford [3-methyl-4-((1S,4S)-2-methyl-2,5-diazabicyclo[2.2.1]heptan-5-yl)phenyl]guanidine, as a TFA salt; LCMS: purity: 89%; MS (m/e): 260 (MH+).

reactant | [3-methyl-4-((1S,4S)-2-methyl-2,5-diazabicyclo[2.2.1]heptan-5-yl)phenyl][N,N-bis(tert-butoxycarbonyl)]guanidine | 0.100 g | CC=1C=C(C=CC1N1[C@@H]2CN([C@H](C1)C2)C)N=C(N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)N | C24H37N5O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | [3-methyl-4-((1S,4S)-2-methyl-2,5-diazabicyclo[2.2.1]heptan-5-yl)phenyl]guanidine | CC=1C=C(C=CC1N1[C@@H]2CN([C@H](C1)C2)C)NC(=N)N | C14H21N5
